US08791132B2
2,8-Dimethyl-5-((2-(pyridin-4-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.3 mmol) was added to 2M dimethyl amine solution in THF (5 mL) and the reaction mixture was allowed to stir at 60° C. overnight. The progress of reaction was monitored by LCMS. The solvent was removed under reduced pressure to obtain a crude oily product that was purified by reverse phase HPLC to afford 5 mg of 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-(dimethylamino)-2-(pyridin-4-yl)propan-2-ol as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.58 (d, 2H), 7.81 (m, 2H), 7.18 (d, 1H), 7.05 (m, 1H), 6.91 (m, 1H), 4.63 (m, 1H), 4.51 (s, 2H), 4.27 (d, 1H), 4.18 (m, 2H), 3.58 (m, 2H), 3.48 (m, 1H), 3.1 (s, 6H), 2.89 (m, 1H), 2.8 (s, 3H), 2.35 (s, 3H). Separation by chiral HPLC provides enantiomers II-259a-b.

reactant | 2,8-Dimethyl-5-((2-(pyridin-4-yl)oxiran-2-yl)methyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.3 mmol, 100 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC2(OC2)C2=CC=NC=C2)CC1 | C21H23N3O
reactant | dimethyl amine | 2M | CNC | C2H7N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(2,8-dimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-3-(dimethylamino)-2-(pyridin-4-yl)propan-2-ol | 5 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CN(C)C)(O)C2=CC=NC=C2)CC1 | C23H30N4O
